US07662974B2
Preparation of ethyl 3-(3,5-di-tert-butyl-2-methoxyphenyl)-3-hydroxypropanoate
Under argon atmosphere, 7.5 mL (4.01 mmol, 2 equivalents) of the solution of ethyl bromozincacetate in terahydrofuran obtained in Example 43 was added dropwise to a solution of 0.5 g (2.01 mmol) of 3,5-di-tert-butyl-2-methoxybenzaldehyde in 5 mL of THF at 5˜7° C. The mixture was stirred at 5˜7° C. for 4 hours. 5 mL of 1N hydrochloric acid was added dropwise at 20° C. or lower, followed by dilution with 15 mL of ethyl acetate. Then, the layers were separated. The organic layer was washed successively with 5 mL (×2) of 1N hydrochloric acid, 5 mL of water, 5 mL (×2) of an aqueous saturated sodium bicarbonate solution, and 5 mL (×2) of an aqueous saturated sodium chloride solution. After washing, the organic layer was dried with anhydrous magnesium sulfate. After concentration under reduced pressure, crystals were loosened with 4 mL of n-hexane to obtain 0.58 g of the desired product (yield 86%).

reactant | 3,5-di-tert-butyl-2-methoxybenzaldehyde | 2.01 mmol, 0.5 g | C(C)(C)(C)C=1C(=C(C=O)C=C(C1)C(C)(C)C)OC | C16H24O2
reactant | hydrochloric acid | 1N, 5 mL | Cl | ClH
reactant | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | terahydrofuran | O1CCCC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | ethyl 3-(3,5-di-tert-butyl-2-methoxyphenyl)-3-hydroxypropanoate | 0.58 g, yield 86% | C(C)(C)(C)C=1C(=C(C=C(C1)C(C)(C)C)C(CC(=O)OCC)O)OC | C20H32O4
